US06855714B2
1-Cyclohexyl-6-[(5-(methoxycarbonyl)pentyl)oxy]-2-phenyl-benzimidazole is reacted according to general operating instructions 7 with dimethylamine hydrochloride. 1-Cyclo-hexyl-6-[(5-((N,N-dimethylamino)carbonyl)pentyl)oxy]-2-phenyl-benzimidazole is obtained as a solid.

reactant | 1-Cyclohexyl-6-[(5-(methoxycarbonyl)pentyl)oxy]-2-phenyl-benzimidazole | C1(CCCCC1)N1C(=NC2=C1C=C(C=C2)OCCCCCC(=O)OC)C2=CC=CC=C2 | C26H32N2O3
reactant | dimethylamine hydrochloride | Cl.CNC
product | 1-Cyclo-hexyl-6-[(5-((N,N-dimethylamino)carbonyl)pentyl)oxy]-2-phenyl-benzimidazole | C1(CCCCC1)N1C(=NC2=C1C=C(C=C2)OCCCCCC(=O)N(C)C)C2=CC=CC=C2 | C27H35N3O2
